US05336771
3- [3(R)-t-Butyldimethylsiloxy, 1-Hydroxybutyl]-2,5-Dichloropyridine
To a cooled (-70° C.) solution of n-butylithium (129.3 mL of 1.18M hexanes solution, 0.153 mol) in isopropyl ether was added a solution of 3-bromo-2,5-dichloropyridine (36.45 g, 0,161 mol) in isopropyl ether (225 mL) over a period of 30 minutes. The resulting white suspension was then treated with a solution of 3 (R) -t-butyldimethylsiloxybutyraldehyde (34.14 g, 0,169 tool) in isopropyl ether (106 mL) and allowed to stir for an additional 30 minutes at -70° C. followed by warming to room temperature. After the addition of 480 mL of water, the biphasic mixture was separated and the organic layer was extracted with isopropyl ether (2×200 mL). The combined organic layers were washed once with water, heated with decolorizing carbon [G-60 DARCO (trademark)] filtered through diatomateous earth [Celite (trademark)] and condensed on a rotary evaporator. The resulting hazy yellow liquid was heated at 80° C. under high vacuum overnight to yield the desired product (mixture of diastereomers) as an amber oil (40.52 g, 72%): Rf 0.36 (25% Et2O in hexanes); 1H NMR (60 MHz, CDCl3)δ 0.1 (s, 6H), 0.82 (s, 9H) , 1.18 (m, 3H) , 1.72 (m, 2H) , 4.16 (m, 1H) , 4.42 (m, 1H) , 5.10 (m, 1H) , 7.92 (d, 1H, J=2.6 Hz) , 8.13 (d, 1H, J=2.6 Hz) .

reactant | 3-bromo-2,5-dichloropyridine | 0,161 mol, 36.45 g | BrC=1C(=NC=C(C1)Cl)Cl | C5H2BrCl2N
reactant | (R) -t-butyldimethylsiloxybutyraldehyde | 34.14 g | O([Si](C)(C)C(C)(C)C)[C@@H](C=O)CC | C10H22O2Si
reactant | water | 480 mL | O | H2O
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | isopropyl ether | 225 mL | C(C)(C)OC(C)C | C6H14O
solvent | isopropyl ether | 106 mL | C(C)(C)OC(C)C | C6H14O
product | [3(R)-t-Butyldimethylsiloxy, 1-Hydroxybutyl]-2,5-Dichloropyridine | 40.52 g, 72% | O([Si](C)(C)C(C)(C)C)[C@@H](CC(O)C=1C(=NC=C(C1)Cl)Cl)C | C15H25Cl2NO2Si
